US05403697
Tetrabromobisphenol A diacetate
27.2 g of tetrabromobisphenol A are dissolved in 176.6 ml of pyridine. 7.8 g of acetyl chloride are added slowly to this solution with cooling, and the reaction mixture thus obtained is kept at room temperature overnight. The mixture is filtered, poured into ice water and acidified using concentrated HCl. The precipitated ester is filtered off under suction, taken up in methylene chloride, washed with sodium bicarbonate solution and water, dried and evaporated. The product is recrystallized from acetonitrile, m.p.: 169° C., NMR: 7.42 ppm, 2.40 ppm, 1.68 ppm.

reactant | tetrabromobisphenol A | 27.2 g | BrC1=C(C(=C(C(=C1O)Br)Br)C(C)(C)C1=CC=C(C=C1)O)Br | C15H12Br4O2
reactant | acetyl chloride | 7.8 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 176.6 ml | N1=CC=CC=C1 | C5H5N
product | Tetrabromobisphenol A diacetate | C(C)(=O)O.C(C)(=O)O.BrC1=C(C(=C(C(=C1O)Br)Br)C(C)(C)C1=CC=C(C=C1)O)Br | InChI=1S/C15H12Br4O2.2C2H4O2/c1-15(2,7-3-5-8(20)6-4-7)9-10(16)12(18)14(21)13(19)11(9)17;2*1-2(3)4/h3-6,20-21H,1-2H3;2*1H3,(H,3,4)
